US05112851
c) 1-(4-Chlorophenyl)-1-(4-aminomethylphenyl)cyclopropane
230 mg of Lithiumaluminiumhydride are suspended in 10 ml of tetrahydrofuran, 234 mg of 1-(4-chlorophenyl)-1-(4-cyanophenyl)cyclopropane in 5 ml tetrahydrofuran added dropwise and the mixture refluxed for 18 hours. The mixture is then hydrolysed with 1N HCl and extracted with dichloromethane. The oily title compound is directly reacted further.

reactant | Lithiumaluminiumhydride | 230 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(4-chlorophenyl)-1-(4-cyanophenyl)cyclopropane | 234 mg | ClC1=CC=C(C=C1)C1(CC1)C1=CC=C(C=C1)C#N | C16H12ClN
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-(4-Chlorophenyl)-1-(4-aminomethylphenyl)cyclopropane | ClC1=CC=C(C=C1)C1(CC1)C1=CC=C(C=C1)CN | C16H16ClN
